US06100283
2-(4'-Nitrophenyl)-1-H-benzimidazole-4-carboxamide (NU1091)
Following standard procedure C, methyl 2-(4'-nitrophenyl)-1-H-benzimidazole-4-carboxylate was dissolved in liquid ammonia and heated under constant volume in a pressure vessel. The product was purified by column chromatography from dichloromethane/methanol 99:1 and recrystallised from methanol.

reactant | methyl 2-(4'-nitrophenyl)-1-H-benzimidazole-4-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)OC | C15H11N3O4
reactant | ammonia | N | H3N
product | 2-(4'-Nitrophenyl)-1-H-benzimidazole-4-carboxamide | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)N | C14H10N4O3
